US07517996B2
(Step 6) Synthesis of methyl 5-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}phenyl)-4-pentenoate
1-(2-Chlorophenyl)ethyl[3-(4-iodophenyl)-4-isoxazolyl]carbamate (250 mg, 0.534 mmol) was dissolved in a mixed solvent of diethylisopropylamine (2.5 ml) and 1,4-dioxane (12.5 ml), ethyl 4-pentenate (96 mg, 0.748 mmol), tri-o-tolyl-phosphine (65 mg, 0.214 mmol), and palladium acetate (12 mg, 0.0534 mmol) were added. The mixture was stirred at 100° C. for 4 hours. 1N Hydrochloric acid was added, and the mixture was extracted with ethyl acetate. The organic layer was washed with saturated aqueous sodium chloride solution and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure to give the title compound (159 mg, 0.340 mmol, 63.6%).

reactant | 1-(2-Chlorophenyl)ethyl[3-(4-iodophenyl)-4-isoxazolyl]carbamate | 0.534 mmol, 250 mg | ClC1=C(C=CC=C1)C(C)N(C([O-])=O)C=1C(=NOC1)C1=CC=C(C=C1)I
reactant | ethyl 4-pentenate | 0.748 mmol, 96 mg | C(CCC=C)(=O)OCC | C7H12O2
reactant | tri-o-tolyl-phosphine | 0.214 mmol, 65 mg | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
reactant | Hydrochloric acid | 1N | Cl | ClH
reactant | diethylisopropylamine | 2.5 ml | C(C)N(C(C)C)CC | C7H17N
solvent | 1,4-dioxane | 12.5 ml | O1CCOCC1 | C4H8O2
catalyst | palladium acetate | 0.0534 mmol, 12 mg | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
product | methyl 5-(4-{4-[1-(2-chlorophenyl)ethoxycarbonylamino]-3-isoxazolyl}phenyl)-4-pentenoate | 0.340 mmol, 159 mg, 63.6% | ClC1=C(C=CC=C1)C(C)OC(=O)NC=1C(=NOC1)C1=CC=C(C=C1)C=CCCC(=O)OC | C24H23ClN2O5
